US08980911B2
Benzyl 4-amino-3-chloro-1H-pyrrolo[3,2-c]pyridine-1-carboxylate (350 mg, 1.16 mmol) was stirred in tetrahydrofuran and triethylamine (0.32 mL, 2.3 mmol) was added. The mixture was cooled to −10° C. and cyclopropanecarbonyl chloride (0.2 mL, 1.73 mmol) was added drop wise. The reaction mixture was stirred at room temperature for about 1 hour, followed by concentration under vacuum to remove tetrahydrofuran. The residue was dissolved in ethyl acetate and organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated to give the crude mixture of benzyl 4-[bis(cyclopropylcarbonyl) amino]-3-chlorol H-pyrrolo[3,2-c]pyridine-1-carboxylate and benzyl 4[(cyclopropylcarbonyl)amino]-3-chloro1H-pyrrolo[3,2-c]pyridine-1-carboxylate. The mixture was treated with saturated potassium carbonate solution in methanol (1 mL) and stirred at room temperature. After completion, methanol was removed under vacuum at room temperature. The residue was treated drop wise with saturated aq. sodium bicarbonate solution and the precipitated solid was filtered, washed with water and dried to obtain N-(3-chloro-1H-pyrrolo[3,2-c]pyridin-4-yl)cyclopropanecarboxamide (176 mg, 69%) as a white solid.

reactant | Benzyl 4-amino-3-chloro-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | 1.16 mmol, 350 mg | NC1=NC=CC2=C1C(=CN2C(=O)OCC2=CC=CC=C2)Cl | C15H12ClN3O2
reactant | triethylamine | 2.3 mmol, 0.32 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 1.73 mmol, 0.2 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | benzyl 4[(cyclopropylcarbonyl)amino]-3-chloro1H-pyrrolo[3,2-c]pyridine-1-carboxylate | C1(CC1)C(=O)NC1=NC=CC2=C1C(=CN2C(=O)OCC2=CC=CC=C2)Cl | C19H16ClN3O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
product | N-(3-chloro-1H-pyrrolo[3,2-c]pyridin-4-yl)cyclopropanecarboxamide | 176 mg, 69% | ClC1=CNC2=C1C(=NC=C2)NC(=O)C2CC2 | C11H10ClN3O
